US08049016B2
Preparation of ethyl 2-(3-(2-(4-fluorobenzylamino)-2-oxoethyl)-2-oxoimidazolidin-1-yl)-4-methylthiazole-5-carboxylate
A mixture of ethyl 2-(3-(2-ethoxy-2-oxoethyl)-2-oxoimidazolidin-1-yl)-4-methylthiazole-5-carboxylate (0.43 g, 1.25 mmol), 4-fluorobenzylamine (3 mL) and catalytic amount of sodium cyanide was stirred at 80° C. for 16 h. The reaction mixture was allowed to cool to ambient temperature, diluted with dichloromethane (25 mL) and filtered. The solid was washed with dichloromethane and hexanes on the filter. The filtrate was filtered again, and the solid was washed with hexanes. The combined material was dried to afford the title compound as a colorless solid (0.45 g, 86%): 1H NMR (300 MHz, CDCl3) δ 7.28-7.20 (m, 2H), 7.05-6.97 (m, 2H), 6.42 (br s, 1H), 4.42 (d, J=5.7 Hz, 2H), 4.29 (q, J=7.1 Hz, 2H), 4.19-4.10 (m, 2H), 3.99 (s, 2H), 3.77-3.70 (m, 2H), 2.62 (s, 3H), 1.34 (t, J=7.1 Hz, 3H); MS (ES+) m/z 421.2 (M+1).

reactant | ethyl 2-(3-(2-ethoxy-2-oxoethyl)-2-oxoimidazolidin-1-yl)-4-methylthiazole-5-carboxylate | 1.25 mmol, 0.43 g | C(C)OC(CN1C(N(CC1)C=1SC(=C(N1)C)C(=O)OCC)=O)=O | C14H19N3O5S
reactant | 4-fluorobenzylamine | 3 mL | FC1=CC=C(CN)C=C1 | C7H8FN
reactant | sodium cyanide | [C-]#N.[Na+]
solvent | dichloromethane | 25 mL | ClCCl | CH2Cl2
product | ethyl 2-(3-(2-(4-fluorobenzylamino)-2-oxoethyl)-2-oxoimidazolidin-1-yl)-4-methylthiazole-5-carboxylate | 0.45 g, 86% | FC1=CC=C(CNC(CN2C(N(CC2)C=2SC(=C(N2)C)C(=O)OCC)=O)=O)C=C1 | C19H21FN4O4S
